US04018802
Step D. Preparation of 8-vinylsulfonyl-12-hydroxyheptadecanoic acid
A mixture of ethyl 8-(2-chloroethylsulfonyl)-12-acetoxyheptadecanoate (43.5 g., 0.09 mole), sodium hydroxide (14.4 g., 0.36 mole), water (150 ml.) and tetrahydrofuran (600 ml.) is stirred at 25° C. for 24 hours. Most of the tetrahydrofuran is removed by evaporation in vacuo keeping the temperature of the evaporating solution at 30° C. or below. The residue is diluted with water (300 ml.) and extracted with ether. The aqueous solution is acidified with dilute hydrochloric acid. The oily product is taken up in ether, washed with water and dried over sodium sulfate. The ether is evaporated to leave the product as a yellowish, very viscous oil. Purification is effected by column chromatography on silica gel with benzene-dioxane as eluting solvent mixture. The title compound is obtained as a colorless viscous oil.

reactant | ethyl 8-(2-chloroethylsulfonyl)-12-acetoxyheptadecanoate | 0.09 mole, 43.5 g | ClCCS(=O)(=O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C23H43ClO6S
reactant | sodium hydroxide | 0.36 mole, 14.4 g | [OH-].[Na+]
reactant | water | 150 ml | O | H2O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 8-vinylsulfonyl-12-hydroxyheptadecanoic acid | C(=C)S(=O)(=O)C(CCCCCCC(=O)O)CCCC(CCCCC)O | C19H36O5S
